US07696231B2
N′-(5-Bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-4-{3-[2-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-3-oxopropyl}benzohydrazide
A suspension of 5-bromo-1H-indole-2,3-dione (67 mg, 0.30 mmol and) and 4-(3-hydrazino-3-oxopropyl)benzohydrazide (0.03 mg, 0.13 mmol) in acetic acid (2 mL) was heated at 100° C. for 80 min. The reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration, washing with AcOH (3×1 mL) and with AcOH/water (2×1 mL) and water (3×1 mL) and drying in vacuo at 70° C. for 4 hrs gave 68 mg of the title compound in a 79% yield as a yellow solid.

reactant | 5-bromo-1H-indole-2,3-dione | 0.30 mmol, 67 mg | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 4-(3-hydrazino-3-oxopropyl)benzohydrazide | 0.13 mmol, 0.03 mg | N(N)C(CCC1=CC=C(C(=O)NN)C=C1)=O | C10H14N4O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | N′-(5-Bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-4-{3-[2-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-3-oxopropyl}benzohydrazide | 68 mg, 79% yield | BrC=1C=C2C(C(NC2=CC1)=O)=NNC(C1=CC=C(C=C1)CCC(=O)NN=C1C(NC2=CC=C(C=C12)Br)=O)=O | C26H18Br2N6O4
